US07601868B2
1-(3-butynyl)-4-(4-chlorophenyl)piperidine
To a solution (50 ml) of 3-butyn-1-ol (700 mg, 10.0 mmol) and triethylamine (2.05 ml, 15 mmol) in tetrahydrofuran was added methanesulfonyl chloride (1.72 g, 15 mmol) at 0° C., and the mixture was stirred at room temperature for 1 hr. Ethyl acetate was added to the reaction mixture, and the mixrture was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. 4-(4-Chlorophenyl)piperidine hydrochloride (2.30 g, 10.0 mmol), potassium carbonate (1.38 g, 10.0 mmol) and acetonitrile (50 ml) were added to the obtained residue, and the mixture was stirred at 60° C. for 16 hrs. 2N Hydrochloric acid was added to the reaction mixture, and the mixture was washed with ethyl acetate. The aqueous layer was basified with 8N aqueous sodium hydroxide solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give the title compound (1.31 g) as a solid.

reactant | 3-butyn-1-ol | 10.0 mmol, 50 ml, 700 mg | C(CC#C)O | C4H6O
reactant | triethylamine | 15 mmol, 2.05 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 15 mmol, 1.72 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-(4-Chlorophenyl)piperidine hydrochloride | 10.0 mmol, 2.30 g | Cl.ClC1=CC=C(C=C1)C1CCNCC1
reactant | potassium carbonate | 10.0 mmol, 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | Hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3-butynyl)-4-(4-chlorophenyl)piperidine | 1.31 g | C(CC#C)N1CCC(CC1)C1=CC=C(C=C1)Cl | C15H18ClN
